2181-08-29 10:05:00 Physician Attending Progress Note
Chief Complaint: flash pulm edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **]F with likely BAC, possible R-sided cancer in the pleural space,
   admitted with several days of shortness of breath, diagnosed with
   e.coli bacteremia of unclear source, txr to micu overnight with severe
   shortness of breath with flash pulmonary edema:
   24 Hour Events:
   -shortness of breath treated with morphine, nitro, lasix, bipap
   -stable overnight, and bipap stopped this am
   History obtained from Patient
   Allergies:
   Metronidazole
   malaise;
   Morphine
   confusion/paran
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   confusion
   para
   Last dose of Antibiotics:
   Piperacillin - [**2181-8-29**] 08:59 AM
   Infusions:
   Other ICU medications:
   Other medications:
   atorva, synthroid, omepr, detrol, asa, lisinopril 5, mvi, amlod,
   calcium, vit d, colace, iron, senna, atenolol, zosyn, ipratr,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Cardiovascular: Chest pain
   Respiratory: Dyspnea
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2181-8-29**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.8
C (96.4
   HR: 65 (65 - 85) bpm
   BP: 107/33(50) {96/33(49) - 131/46(68)} mmHg
   RR: 23 (20 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             222 mL
   PO:
             120 mL
   TF:
   IVF:
   102 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    360 mL
   Urine:
   360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 419 (419 - 419) mL
   PS : 10 cmH2O
   RR (Spontaneous): 46
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: 7.36/64/92.[**Numeric Identifier 641**]/32/7
   Ve: 6.4 L/min
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, +jvd
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Diminished: bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   314 K/uL
   209 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.8 mEq/L
   15 mg/dL
   95 mEq/L
   136 mEq/L
   29.1 %
   12.2 K/uL
        [image002.jpg]
                             [**2181-8-29**]  03:54 AM
                             [**2181-8-29**]  04:23 AM
   WBC
   12.2
   Hct
   29.1
   Plt
   314
   Cr
   0.9
   TropT
   0.02
   TCO2
   38
   Glucose
   209
   Other labs: PT / PTT / INR:17.6/27.1/1.6, CK / CKMB /
   Troponin-T:35//0.02, Differential-Neuts:89.4 %, Lymph:6.3 %, Mono:3.7
   %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.6 mg/dL
   Imaging: cxr: interstit edema; bibasilar infiltrates
   Microbiology: bcx prior: e.coli
   Assessment and Plan
   94F with PEs, HFpEF, likely lung cancer, presented with bacteremia of
   unknown cause, presents with flash pulmonary edema of unclear
   precipitant, now much improved:
   pulm edema / acute diastolic CHF in the setting of hypertension:
   -cont lasix iv, goal neg [**Telephone/Fax (1) 1848**] daily for now
   -uptitrate lisinopril; d/c amlodipine
   -continue home dose atenolol
   pleural effusion
   - holding off on thoracentesis (no clear difference from baseline)
   PE
   -start systemic a/c as long as no procedures
   bacteremia: still looking for precipitant but likely UTI with culture
   negative because checked after abx; GI source possible
   -on zosyn; favor more narrow abx, 2 weeks total
   -considering further wor
   likely lung cancer
   -Dr. [**Last Name (STitle) 7585**]
s clinic patient, he will continue family discussion
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2181-8-29**] 09:00 AM
   Prophylaxis:
   DVT: LMW Heparin(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2181-08-30 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: dyspnea
   24 Hour Events:
   - given lasix 20 IV x 1 with minimal response, then given 40 IV x 1 and
   diruesed 600cc over the day
   - started on lovenox daily, but will need to hold in AM prior to [**Female First Name (un) 231**]
   - desatted to 70s while sleeping, so placed on face tent
   - amlodipine stopped; will start lisinopril in AM if BP can tolerate
   it; blood pressure predominantly 100s-120s systolic during the day
   Allergies:
   Metronidazole
   malaise;
   Morphine
   confusion/paran
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   confusion
   para
   Last dose of Antibiotics:
   Piperacillin - [**2181-8-29**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-8-30**] 12:23 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2181-8-29**] 10:36 AM
   Enoxaparin (Lovenox) - [**2181-8-29**] 11:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-30**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 64 (62 - 72) bpm
   BP: 141/37(64) {102/27(47) - 169/54(104)} mmHg
   RR: 22 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    755 mL
                                                                    136 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    275 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  1,385 mL
                                                                    210 mL
   Urine:
                                                                  1,385 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -630 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///37/
   Physical Examination
   Gen - elderly F in acute respiratory distress, calming down after bipap
   mask placed
   HEENT - ATNC, PERRLA, EOMI, moist mucous membranes, supple neck, JVP
   elevated to angle of the jaw, no LAD
   CV - 2/6 systolic murmur best heart at LUSB, no rubs or gallops
   Lungs - rhonchorous at bilateral post apices, decreased breath sounds
   at based, some crackles in the mid lungs; expiratory wheezes on the
   anterior exam
   Abd - soft, NT, ND, no hsm or masses, normoactive bowel sounds
   Ext - warm, palp pulses, no edema
   Neuro - A+Ox3, CN intact, moving all 4 extremities, no focal deficits
   Labs / Radiology
   323 K/uL
   8.9 g/dL
   117 mg/dL
   1.0 mg/dL
   37 mEq/L
   3.9 mEq/L
   18 mg/dL
   95 mEq/L
   140 mEq/L
   27.3 %
   7.0 K/uL
        [image002.jpg]
                             [**2181-8-29**]  03:54 AM
                             [**2181-8-29**]  04:23 AM
                             [**2181-8-29**]  10:12 AM
                             [**2181-8-29**]  04:32 PM
                             [**2181-8-30**]  04:27 AM
   WBC
   12.2
   7.0
   Hct
   29.1
   27.3
   Plt
   314
   323
   Cr
   0.9
   1.0
   1.0
   TropT
   0.02
   0.04
   TCO2
   38
   Glucose
   [**Telephone/Fax (3) 7596**]
   Other labs: PT / PTT / INR:13.1/26.1/1.1, CK / CKMB /
   Troponin-T:33//0.04, Differential-Neuts:89.4 %, Lymph:6.3 %, Mono:3.7
   %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o F with hx of probably lung cancer, bilateral pleural effusions,
   hx of breast cancer, hx of CAD with diastolic heart failure and HTN who
   presented to the MICU after an episode consistent with flash pulmonary
   edema, still tenous resipratory status.
   .
   # Hypercarbic, hypoxic respiratory failure - acute in nature and in
   association with hypertension.  Likely flash pulmonary edema.
   Responded to lasix, nitro and morphine today.  Unclear precipitating
   event that caused the flash edema, although likely worsening heart
   failure.  Will treat diastolic CHF and effusions as discussed below for
   the acute and chronic nature of her respiratory problems.
   - stable on 4 L nasal canula for now, cont to wean to home settings of
   2L PRN
   .
   # CHF
 has diastolic heart failure, likely worsening in the setting of
   hypertension.
   - continue daily diuresis with 40 mg IV lasix, will likely need to have
   increased home dosing
   - goal neg 500 to 1L
   - continue blood pressure control and afterload reduction; had stopped
   amlodipine yesterday, will titrate up lisinopril as tolerated by blood
   pressures
   - continue beta blocker for BP and HR control
   .
   # Bilateral pleural effusion - stable on CXR, IP following along with
   plan for thoracentesis in morning. Underwent first thoracentesis in
   [**11-1**] and talc pleurodesis in [**2-2**].  Goal for therapeutic tap to
   improve her dyspnea.
   - thoracentesis per IP if clinically stable
   - consider pleurodex catheter
   .
   # E.coli Bacteremia - has e.coli in blood.  Patient afebrile and
   hemodynamically stable at this time; unclear source.  Was on both zosyn
   and cipro during this hospitalization.  Transferred on zosyn.
   - cont zosyn
   - touch base with primary team about plan for abx in morning
   .
   # Leukocytosis - has new leukocytosis from 7 to 12 after admission to
   MICU.  No obvious new source of infection, no fever, CXR without focal
   infiltrate.  Already on zosyn, consider coverage with for staph because
   of red L arm, but will not start unless febrile or clinically changing.
   - add staph/strep coverage if febrile, leukocytosis worsening
   - re culture blood and urine
   - f/u final read of CXR
   .
   # CHF - echo today showed hypertrophied LV consistent with some
   diastolic dysfunction.  Has preserved systolic function and some
   valvular disease.  Contributed to flash edema today in setting of
   hypertension.
   - continue lasix with daily dosing for goal of neg 500cc to 1L
   - best to increase lisinopril PRN for afterload reduction
   .
   # CAD - hx of CAD, no changed on EKG post flash, but need to consider
   ischemia as possible cause of worsened heart failure.
   - cycle cardiac enzymes
   .
   # Anemia - pt with  baseline hct in high 30s now in high 20s, stable.
   Guiac neg, iron studies consistent with iron deficiency; B12 and folate
   were normal.
   - cont iron supplementation
   - outpatient workup if so desired
   .
   # Lung CA - likely bronchoalveolar carcinoma, possibly contributing to
   worsening baseline hypoxia and pleural effusions.
   - follow up with oncologist for treatment plan
   - IP for thoracentesis
   - continue nasal O2 as needed for comfort
   .
   # H/o breast CA - no active issues, continue outpatient followup.
   .
   # H/o PE - pt admitted with INR of 3.6. Will hold coumadin until INR
   <3, particularly in the setting of antibiotics.
   - daily INR
   - restart coumadin after thoracentesis
   .
   # Hypothyroidism:
   - cont home levothyroxine
   .
   # L carotid bruit - stable
   -consider u/s as outpt if it seems appropriate (pt likely would not
   want to undergo endarterectomy)
   .
   # Dyslipidemia - cont statin.
   .
   # GERD - Cont omeprazole.
   .
   # Osteoporosis - fosamax, Ca, Vit D.
   .
   # PT consult pending.
   .
   # FEN: No IVF, replete electrolytes, NPO while on bipap
   # Prophylaxis: coumadin for now, SQ hep when not therapeutic
   # Access: 1 PIV
   # Code: DNR/I
   # Communication: Patient. Pt's daughter ([**Name (NI) 142**]): [**Telephone/Fax (1) 7575**] (h),
   [**Telephone/Fax (1) 7576**] (c)
   # Disposition: ICU overnight.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-8-29**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-08-30 10:31:00 Physician Attending Progress Note
Chief Complaint: dyspnea, flash pulm edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **]F with likely lung cancer, HFpEF, PEs, presented with e.coli
   bacteremia and flash pulm edema, now improved:
   24 Hour Events:
   -stopped amlodipine; uptitrating lisinopril
   -lasix twice with good UOP
   -continued to desat significantly
   History obtained from Patient
   Allergies:
   Metronidazole
   malaise;
   Morphine
   confusion/paran
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   confusion
   para
   Last dose of Antibiotics:
   Piperacillin - [**2181-8-29**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-8-30**] 09:08 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2181-8-29**] 10:36 AM
   Enoxaparin (Lovenox) - [**2181-8-29**] 11:21 AM
   Other medications:
   lipitor, omepr, [**Last Name (LF) 7602**], [**First Name3 (LF) **], lisinopril 5, mvi, ca, vitd, colace,
   iron, atenolol, zosyn, atrovent, lovenox 60 q24
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Flowsheet Data as of  [**2181-8-30**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 69 (62 - 72) bpm
   BP: 165/43(75) {102/27(47) - 169/54(104)} mmHg
   RR: 20 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    755 mL
                                                                    250 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    275 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,385 mL
                                                                    330 mL
   Urine:
                                                                  1,385 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -630 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///37/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, Diminished: r base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   323 K/uL
   117 mg/dL
   1.0 mg/dL
   37 mEq/L
   3.9 mEq/L
   18 mg/dL
   95 mEq/L
   140 mEq/L
   27.3 %
   7.0 K/uL
        [image002.jpg]
                             [**2181-8-29**]  03:54 AM
                             [**2181-8-29**]  04:23 AM
                             [**2181-8-29**]  10:12 AM
                             [**2181-8-29**]  04:32 PM
                             [**2181-8-30**]  04:27 AM
   WBC
   12.2
   7.0
   Hct
   29.1
   27.3
   Plt
   314
   323
   Cr
   0.9
   1.0
   1.0
   TropT
   0.02
   0.04
   TCO2
   38
   Glucose
   [**Telephone/Fax (3) 7596**]
   Other labs: PT / PTT / INR:13.1/26.1/1.1, CK / CKMB /
   Troponin-T:33//0.04, Differential-Neuts:89.4 %, Lymph:6.3 %, Mono:3.7
   %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   Imaging: cxr: worsening L effusion; pulm edema
   Assessment and Plan
   94F with likely lung cancer, HFpEF, PEs, presented with e.coli
   bacteremia and flash pulm edema, now improved but remains limited but
   pulmonary edema and likely left pleural effusion:
   Acute and chronic diastolic chf c/b pleural effusion:
   -adjust bp meds: uptitrate ace as much as tolerates; change to
   metoprolol and atenolol
   -IP today to consider Left [**Female First Name (un) 231**], +/- pleurodesis
   -will email outpatient cards re regimen
   e.coli bacteremia
   -switch to cipro po to complete 2 wk course
   h/o PE
   -holding a/c given likely procedure
   -will restart when
   goals of care
   -will discuss with daughter re [**Name2 (NI) **] care consult
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2181-8-29**] 09:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2181-08-31 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: dyspnea
   24 Hour Events:
   [**2181-8-30**]
   -IP will come to do [**Female First Name (un) 231**]
   -ideally would want i/o -1L, but will defer to [**Female First Name (un) 231**]
   -abx changed to cipro
   -[**Female First Name (un) 231**] unable to be done as there was no window where lung wasn't seen.
   Will ask rads Re: CT guided [**Female First Name (un) 231**] in am.
   -increased lisinopril to 10mg
   Allergies:
   Metronidazole
   malaise;
   Morphine
   confusion/paran
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   confusion
   para
   Last dose of Antibiotics:
   Piperacillin - [**2181-8-29**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-8-30**] 09:08 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-31**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96.1
   HR: 64 (60 - 73) bpm
   BP: 157/48(76) {91/28(48) - 171/92(103)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    520 mL
                                                                     37 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                    320 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                    670 mL
                                                                    240 mL
   Urine:
                                                                    670 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -150 mL
                                                                   -203 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///37/
   Physical Examination
   Gen - elderly F in acute respiratory distress, calming down after bipap
   mask placed
   HEENT - ATNC, PERRLA, EOMI, moist mucous membranes, supple neck, JVP
   elevated to angle of the jaw, no LAD
   CV - 2/6 systolic murmur best heart at LUSB, no rubs or gallops
   Lungs - rhonchorous at bilateral post apices, decreased breath sounds
   at based, some crackles in the mid lungs; expiratory wheezes on the
   anterior exam
   Abd - soft, NT, ND, no hsm or masses, normoactive bowel sounds
   Ext - warm, palp pulses, no edema
   Neuro - A+Ox3, CN intact, moving all 4 extremities, no focal deficits
   Labs / Radiology
   305 K/uL
   8.8 g/dL
   120 mg/dL
   1.0 mg/dL
   37 mEq/L
   4.3 mEq/L
   17 mg/dL
   97 mEq/L
   141 mEq/L
   27.3 %
   6.5 K/uL
        [image002.jpg]
                             [**2181-8-29**]  03:54 AM
                             [**2181-8-29**]  04:23 AM
                             [**2181-8-29**]  10:12 AM
                             [**2181-8-29**]  04:32 PM
                             [**2181-8-30**]  04:27 AM
                             [**2181-8-31**]  03:14 AM
   WBC
   12.2
   7.0
   6.5
   Hct
   29.1
   27.3
   27.3
   Plt
   [**Telephone/Fax (3) 7616**]
   Cr
   0.9
   1.0
   1.0
   1.0
   TropT
   0.02
   0.04
   TCO2
   38
   Glucose
   [**Telephone/Fax (3) 7617**]20
   Other labs: PT / PTT / INR:12.8/24.5/1.1, CK / CKMB /
   Troponin-T:33//0.04, Differential-Neuts:89.4 %, Lymph:6.3 %, Mono:3.7
   %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o F with hx of probably lung cancer, bilateral pleural effusions,
   hx of breast cancer, hx of CAD with diastolic heart failure and HTN who
   presented to the MICU after an episode consistent with flash pulmonary
   edema, still tenous resipratory status.
   .
   # Hypercarbic, hypoxic respiratory failure - acute in nature and in
   association with hypertension.  Likely flash pulmonary edema.
   Responded to lasix, nitro and morphine today.  Unclear precipitating
   event that caused the flash edema, although likely worsening heart
   failure.  Will treat diastolic CHF and effusions as discussed below for
   the acute and chronic nature of her respiratory problems.
   - stable on 4 L nasal canula for now, cont to wean to home settings of
   2L PRN
   .
   # CHF
 has diastolic heart failure, likely worsening in the setting of
   hypertension.
   - hold off on diuresis this morning, will reevaluate post thoracentesis
   - continue blood pressure control and afterload reduction; had stopped
   amlodipine yesterday, will titrate up lisinopril as tolerated by blood
   pressures
   - change atenolol to metoprolol for better control of BP, titrate up as
   needed
   .
   # Bilateral pleural effusion - stable on CXR, IP following along with
   plan for thoracentesis in morning. Underwent first thoracentesis in
   [**11-1**] and talc pleurodesis in [**2-2**].  Goal for therapeutic tap to
   improve her dyspnea.
   - thoracentesis per IP this afternoon
   .
   # E.coli Bacteremia - has e.coli in blood.  Patient afebrile and
   hemodynamically stable at this time; unclear source.  Was on both zosyn
   and cipro during this hospitalization.  Transferred on zosyn.
   - will stop zosyn and switch to cipro as e.coli is pan sensitive
   - plan for 14 day total course
   .
   # Leukocytosis - has new leukocytosis from 7 to 12 after admission to
   MICU, now normalized again today.  Switching from zosyn to cipro today,
   and will continue for bacteremia as above.
   - following up cultures, no new growth to date
   .
   # CHF
 echo showed hypertrophied LV consistent with some diastolic
   dysfunction.  Has preserved systolic function and some valvular
   disease.  Contributed to flash edema today in setting of hypertension.
   - holding lasix this morning, thoracentesis this afternoon
   - switching from atenolol to metoprolol; titrating up lisinopril for BP
   control
   .
   # CAD - hx of CAD, no changed on EKG post flash, but need to consider
   ischemia as possible cause of worsened heart failure.
   - CEs negative
   .
   # Anemia - pt with  baseline hct in high 30s now in high 20s, stable.
   Guiac neg, iron studies consistent with iron deficiency; B12 and folate
   were normal.
   - cont iron supplementation
   - outpatient workup if so desired
   .
   # Lung CA - likely bronchoalveolar carcinoma, possibly contributing to
   worsening baseline hypoxia and pleural effusions.
   - follow up with oncologist for treatment plan
   - IP for thoracentesis
   - continue nasal O2 as needed for comfort
   .
   # H/o breast CA - no active issues, continue outpatient followup.
   .
   # H/o PE - pt admitted with INR of 3.6. Will hold coumadin until INR
   <3, particularly in the setting of antibiotics.
   - on lovenox now; consider resetarting coumadin after procedures
   .
   # Hypothyroidism:
   - cont home levothyroxine
   .
   # L carotid bruit - stable
   -consider u/s as outpt if it seems appropriate (pt likely would not
   want to undergo endarterectomy)
   .
   # Dyslipidemia - cont statin.
   .
   # GERD - Cont omeprazole.
   .
   # Osteoporosis - fosamax, Ca, Vit D.
   .
   # PT consult pending.
   .
   # FEN: No IVF, replete electrolytes, NPO while on bipap
   # Prophylaxis: lovenox
   # Access: 1 PIV
   # Code: DNR/I
   # Communication: Patient. Pt's daughter ([**Name (NI) 142**]): [**Telephone/Fax (1) 7575**] (h),
   [**Telephone/Fax (1) 7576**] (c)
   # Disposition: ICU for now, consider transfer to floor after
   thoracentesis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-8-29**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-08-31 11:29:00 Physician Attending Progress Note
Chief Complaint: flash pulm edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **]F with likely lung cancer, HFpEF, presented with flash pulm edema
   unclear precipitant, now improved:
   24 Hour Events:
   -no safe place to do [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 231**] -- see event note
   -no other events
   History obtained from Patient
   Allergies:
   Metronidazole
   malaise;
   Morphine
   confusion/paran
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   confusion
   para
   Last dose of Antibiotics:
   Piperacillin - [**2181-8-29**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-8-30**] 09:08 AM
   Ciprofloxacin - [**2181-8-31**] 10:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   lipitor, detrol, asa, omepr, tums, vitd, iron, senna, lovenox (held),
   lisinopril 10,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: Foley
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2181-8-31**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36
C (96.8
   HR: 67 (60 - 73) bpm
   BP: 146/43(71) {96/28(48) - 171/92(103)} mmHg
   RR: 27 (17 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    520 mL
                                                                     56 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                    320 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                    670 mL
                                                                    377 mL
   Urine:
                                                                    670 mL
                                                                    377 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -150 mL
                                                                   -321 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///37/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   305 K/uL
   120 mg/dL
   1.0 mg/dL
   37 mEq/L
   4.3 mEq/L
   17 mg/dL
   97 mEq/L
   141 mEq/L
   27.3 %
   6.5 K/uL
        [image002.jpg]
                             [**2181-8-29**]  03:54 AM
                             [**2181-8-29**]  04:23 AM
                             [**2181-8-29**]  10:12 AM
                             [**2181-8-29**]  04:32 PM
                             [**2181-8-30**]  04:27 AM
                             [**2181-8-31**]  03:14 AM
   WBC
   12.2
   7.0
   6.5
   Hct
   29.1
   27.3
   27.3
   Plt
   [**Telephone/Fax (3) 7616**]
   Cr
   0.9
   1.0
   1.0
   1.0
   TropT
   0.02
   0.04
   TCO2
   38
   Glucose
   [**Telephone/Fax (3) 7617**]20
   Other labs: PT / PTT / INR:12.8/24.5/1.1, CK / CKMB /
   Troponin-T:33//0.04, Differential-Neuts:89.4 %, Lymph:6.3 %, Mono:3.7
   %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.2 mg/dL
   Imaging: cxr: smaller L effusion
   Microbiology: bcx: ecoli
   Assessment and Plan
   94F with likely lung cancer, HFpEF, presented with flash pulm edema
   unclear precipitant, now improved, awaiting possible procedure:
   dyspnea, hypoxia, left effusion
   -cont to treat HFpEF with increaseing acei
   -good fluid balance, goal tbb even
   -cont metoprolol
   -possible ct-guided thoracentesis
   bacteremia
   -cont cipro for 14 days
   h/o pe
   -restart lovenox / coumadin after procedure
   Disp
   -d/c foley
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-8-29**] 09:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill